US08623889B2
Step 1: 6-chloro-2-(5-fluoro-2-methylphenyl)-1,7-naphthyridin-4(1H)-one
The title compound was prepared following a procedure similar to example 121 using 5-(tert-butoxycarbonylamino)-2-chloroisonicotinic acid (505 mg, 1.85 mmol) and 5′-fluoro-2′-methylacetophenone (566 mg, 3.72 mmol) to afford the impure title compound as a beige solid (128 mg), used without further purification. LCMS: M+H+=289 & 291.

reactant | 5-(tert-butoxycarbonylamino)-2-chloroisonicotinic acid | 1.85 mmol, 505 mg | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)O)Cl | C11H13ClN2O4
reactant | 5′-fluoro-2′-methylacetophenone | 3.72 mmol, 566 mg | FC=1C=CC(=C(C1)C(C)=O)C | C9H9FO
product | 6-chloro-2-(5-fluoro-2-methylphenyl)-1,7-naphthyridin-4(1H)-one | 128 mg | ClC=1C=C2C(C=C(NC2=CN1)C1=C(C=CC(=C1)F)C)=O | C15H10ClFN2O
